US07176195B2
23A. 1-Ethyl-2-oxo-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine
2-Oxo-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine (1.95 g, 11.96 mmol) was reacted with ethyl iodide (1.4 ml, 17.5 mmol) according to the procedure in Example 18A. The product was purified by flash chromatography on silica (eluant EtOAc); yield 1.70 g (75%).

reactant | 2-Oxo-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine | 11.96 mmol, 1.95 g | O=C1CCNC2=C(N1)C=CC=C2 | C9H10N2O
reactant | ethyl iodide | 17.5 mmol, 1.4 ml | C(C)I | C2H5I
product | 1-Ethyl-2-oxo-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine | C(C)N1C(CCNC2=C1C=CC=C2)=O | C11H14N2O
